* OpenS Generated Netlist
.preprocess addresistors nodcpath 1G
B1 vout_ao VSS V=LIMIT(V(N_2,vout_ao)*1,-15,15)
B2 N_3 VSS V=LIMIT(V(vin_ai,N_3)*1,-15,15)
C1 N_1 vout_ao 100n
C2 N_1 VSS 100n
R2 N_3 N_1 31.83k
R3 N_1 N_2 31.83k
* Skipping SCRIPT1: No template
* --- Stimuli from stimuli.json ---
V_STIM_1_VDD VDD 0 3.3
V_STIM_2_VSS VSS 0 0
V_STIM_3_vin_ai vin_ai 0 DC 1.65 AC 1
* ----------------------------------------
.ac DEC 1000 1 10Meg
.print ac v(*) 
.end