XYCE-generated Netlist file copy:  TIME='09:04:31 PM' DATE='Mar 18, 2026' 
*Original Netlist Title:  

** OpenS Generated Netlist

*.preprocess addresistors nodcpath 1G
*Xyce:  ".PREPROCESS ADDRESISTORS" statement automatically commented out in netlist copy.
B1 vout_ao VSS V=LIMIT(V(N_2,vout_ao)*1,-15,15)
B2 N_3 VSS V=LIMIT(V(vin_ai,N_3)*1,-15,15)
C1 N_1 vout_ao 100n
C2 N_1 VSS 100n
R2 N_3 N_1 31.83k
R3 N_1 N_2 31.83k
* Skipping SCRIPT1: No template
* --- Stimuli from stimuli.json ---
V_STIM_1_VDD VDD 0 3.3
V_STIM_2_VSS VSS 0 0
V_STIM_3_vin_ai vin_ai 0 DC 1.65 AC 1
* ----------------------------------------
.ac DEC 1000 1 10Meg
.print ac v(*) 


*XYCE-GENERATED OUTPUT:  Adding resistors between ground and nodes connected to only 1 device terminal:

RONETERM1 VIN_AI 0 
RONETERM2 VDD 0 
RONETERM3 N_2 0 

.END
