XYCE-generated Netlist file copy:  TIME='09:12:37 PM' DATE='Mar 24, 2026' 
*Original Netlist Title:  

** OpenS Generated Netlist

*.preprocess addresistors nodcpath 1G
*Xyce:  ".PREPROCESS ADDRESISTORS" statement automatically commented out in netlist copy.
.model CONTROLLER npy MODULE=controller CLASS=Controller PYTHONPATH=/Users/rennekef/Documents/SchematicEntry/backup/tests/grid-tie/grid-tie-lib/test
N1 N_1 0 N_14 N_15 N_16 N_17 N_18 N_19 0 N_20 N_21 N_22 N_23 N_24 N_25 VOUT CONTROLLER
N2 N_1 VOUT N_2 N_3 N_4 N_5 N_6 N_7 0 N_8 N_9 N_10 N_11 N_12 N_13 VOUT2 CONTROLLER
V1 N_1 0 dc 1 ac 0
.tran 1u 100u
.print tran v(*) 


*XYCE-GENERATED OUTPUT:  Adding resistors between ground and nodes with no DC path to ground:

RNODCPATH1 N_17 0 1G
RNODCPATH2 N_18 0 1G
RNODCPATH3 N_19 0 1G
RNODCPATH4 N_20 0 1G
RNODCPATH5 N_21 0 1G
RNODCPATH6 N_16 0 1G
RNODCPATH7 N_25 0 1G
RNODCPATH8 N_13 0 1G
RNODCPATH9 N_22 0 1G
RNODCPATH10 N_12 0 1G
RNODCPATH11 VOUT2 0 1G
RNODCPATH12 N_11 0 1G
RNODCPATH13 N_10 0 1G
RNODCPATH14 N_9 0 1G
RNODCPATH15 N_14 0 1G
RNODCPATH16 N_23 0 1G
RNODCPATH17 N_8 0 1G
RNODCPATH18 N_6 0 1G
RNODCPATH19 N_5 0 1G
RNODCPATH20 N_4 0 1G
RNODCPATH21 N_15 0 1G
RNODCPATH22 N_7 0 1G
RNODCPATH23 N_3 0 1G
RNODCPATH24 N_24 0 1G
RNODCPATH25 N_2 0 1G

.END
