* OpenS Generated Netlist
.preprocess addresistors nodcpath 1G
.model NMOS_MODEL NMOS (LEVEL=1 VTO=2.5 KP=0.5 LAMBDA=0.02 CGSO=100p CGDO=10p CBD=50p)
MM1 N_1 N_2 0 0 NMOS_MODEL L=1u W=10u m=1
VV1 N_2 0 dc 1 ac 1
VV2 N_1 0 dc 0.2 ac 0
.dc V1 0 5 0.1
.print dc v(*) 
.end